US04399135
Triethylamine (0.27 cc) is added, in the course of 10 minutes, to a solution, cooled to -5° C., of the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-(2-oxoethyl)-5-oxa-1-azabicyclo-[4.2.0]oct-2-ene (1.00 g) and tosyl chloride (0.35 g) in methylene chloride (20 cc). The mixture is stirred at -5° C. for 10 minutes and then left to return to 20° C. The mixture is then stirred for 30 minutes. The solvent is evaporated off under reduced pressure (350 mm Hg; 47 kPa). This yields a chestnut-coloured oil, which solidifies on stirring with ether (100 cc). The solid is filtered off and dried. This yields the E form of the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-8-oxo-3-(2-tosyloxyvinyl)-5-oxa-1-azabicyclo[4.2.0]oct-2-ene (0.38 g) in the form of a cream-coloured powder. The filtrate is concentrated to a residual volume of 5 cc and isopropyl ether (100 cc) is added. A pale yellow solid separates out. It is isolated on a filter and a second fraction of the E form of the syn isomer of 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-(2-tosyloxyvinyl)-5-oxa-1-azabicyclo[4.2.0]oct-2-ene (0.11 g) is obtained.

reactant | Triethylamine | 0.27 cc | C(C)N(CC)CC | C6H15N
reactant | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)-acetamido]-8-oxo-3-(2-oxoethyl)-5-oxa-1-azabicyclo-[4.2.0]oct-2-ene | 1.00 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2OCC1CC=O)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C47H39N5O7S
reactant | tosyl chloride | 0.35 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | ether | 100 cc | CCOCC | C4H10O
solvent | methylene chloride | 20 cc | C(Cl)Cl | CH2Cl2
product | 2-benzhydryloxycarbonyl-7-[2-methoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]-8-oxo-3-(2-tosyloxyvinyl)-5-oxa-1-azabicyclo[4.2.0]oct-2-ene | 0.38 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2OCC1C=COS(=O)(=O)C1=CC=C(C)C=C1)NC(C(C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=NOC)=O)=O | C54H45N5O9S2
